US04958029
N-benzyl-5,6-dimethoxyisoindoline
2.35 g (10 mmol) of 4,5-bis(chloromethyl)veratrol was added at room temperature to a suspension comprising 5 ml of a 50% sodium hydroxide aqueous solution, 25 ml of toluene, 1.25 g (11.66 mmol) of benzylamine and 0.2 g of Starks catalyst (a 90% aqueous solution), and the mixture was stirred for 20 hours. The organic layer was separated, dried over anhydrous sodium sulfate and concentrated to dryness under reduced pressure. The crystal residue was washed with diisopropyl ether to obtain 1.87 g of the above identified compound as colorless needle crystals.

reactant | 4,5-bis(chloromethyl)veratrol | 10 mmol, 2.35 g | ClCC=1C=C(C(=CC1CCl)OC)OC | C10H12Cl2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | benzylamine | 11.66 mmol, 1.25 g | C(C1=CC=CC=C1)N | C7H9N
catalyst | Starks catalyst | 0.2 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | N-benzyl-5,6-dimethoxyisoindoline | C(C1=CC=CC=C1)N1CC2=CC(=C(C=C2C1)OC)OC | C17H19NO2
